US05227444
Synthesis of N-methyl anilinoethanol
In a 250 ml container, take 50 g (0.365 mole) of 2 N anilinoethanol, 52.5 g (0.35 mole) of methyl iodide and 66 ml of ethanol. The solution is left overnight under ethanol reflux.

reactant | anilinoethanol | 0.365 mole, 2 N, 50 g | N(C1=CC=CC=C1)C(C)O | C8H11NO
reactant | methyl iodide | 0.35 mole, 52.5 g | CI | CH3I
solvent | ethanol | 66 ml | C(C)O | C2H6O
product | N-methyl anilinoethanol | CN(C1=CC=CC=C1)C(C)O | C9H13NO
